US08202868B2
2-tert-Butyl-4-cyclobutyl-6-{4-[3-(pyrimidin-2-yloxy)-propyl]-piperazin-1-yl}-pyrimidine hydrochloride
0.31 g of sodium hydride (7.8 mmol; 60% in paraffin) was washed oil-free with pentane before 1.3 g of 3-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-propan-1-ol (3.91 mmol) dissolved in 20 ml of dioxane were added. The reaction was heated to reflux for 1 h. After cooling, 0.7 g of 2-chloro-pyrimidine (6.11 mmol) dissolved in 10 ml of dioxane were added. The reaction mixture was heated under reflux for 2 h. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, the solvent evaporated, and the residue re-dissolved in isopropanol and treated with hydrochloric acid in diethyl ether. After removing most of the organic phase, the residue was treated with isopranol/diisopropyl ether, which, after cautious evaporation, yielded 1.6 g of the title compound.

reactant | sodium hydride | 7.8 mmol, 0.31 g | [H-].[Na+]
reactant | 3-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-propan-1-ol | 3.91 mmol, 1.3 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCO)C1CCC1 | C19H32N4O
reactant | 2-chloro-pyrimidine | 6.11 mmol, 0.7 g | ClC1=NC=CC=N1 | C4H3ClN2
solvent | pentane | CCCCC | C5H12
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-tert-Butyl-4-cyclobutyl-6-{4-[3-(pyrimidin-2-yloxy)-propyl]-piperazin-1-yl}-pyrimidine hydrochloride | 1.6 g | Cl.C(C)(C)(C)C1=NC(=CC(=N1)C1CCC1)N1CCN(CC1)CCCOC1=NC=CC=N1 | InChI=1S/C23H34N6O.ClH/c1-23(2,3)21-26-19(18-7-4-8-18)17-20(27-21)29-14-12-28(13-15-29)11-6-16-30-22-24-9-5-10-25-22;/h5,9-10,17-18H,4,6-8,11-16H2,1-3H3;1H
